US04908371
With stirring, 0.56 ml of triethylamine is added at room temperature to a suspension of 0.556 g of 3-hydroxy-1,2-dimethyl-4(1H)-pyridinone in 40 ml of acetonitrile and 40 ml of methylene chloride, followed by the addition of 0.76 ml of diethylcarbamoyl chloride. The suspension still remains intact after 60 minutes and thin-layer chromatography shows that no reaction has taken place. Then 20 ml of pyridine are added to the mixture, which turns yellowish in colour. After a further 60 minutes the onset of reaction can be observed. This reaction is brought to completion by stirring for 16 hours. The volatile constituents are removed by evaporation under reduced pressure. The residue is dried under a high vacuum, then dissolved in methanol, and the solution is treated with activated carbon, filtered and concentrated by evaporation. The filtrate is taken up in 100 ml of ethyl acetate, whereupon a product crystallises. A furthher crystalline product can be obtained by working up the mother liquor. The two products are combined and dissolved in methylene chloride. The solution is washed twice with water and the organic phase is concentrated by evaporation. The residue is crystallised from ethyl acetate, affording 3-(diethylaminocarbonyloxy)-1,2-dimethyl-4(1H)-pyridinone with a melting point of 135°-137° C.

reactant | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-1,2-dimethyl-4(1H)-pyridinone | 0.556 g | OC1=C(N(C=CC1=O)C)C | C7H9NO2
reactant | diethylcarbamoyl chloride | 0.76 ml | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-(diethylaminocarbonyloxy)-1,2-dimethyl-4(1H)-pyridinone | C(C)N(C(=O)OC1=C(N(C=CC1=O)C)C)CC | C12H18N2O3
